parameters sky130_fd_pr__cap_vpp_08p6x07p8_l1m1m2_noshield__slope=0.0
subckt sky130_fd_pr__cap_vpp_08p6x07p8_l1m1m2_noshield (c0 c1 b)
parameters mult=1.0 ctot_a=40.728e-15 * sky130_fd_pr__cap_vpp_08p6x07p8_l1m1m2_noshield__cor + 1.06714 / sqrt(mult / 0.346925) * mc_mm_switch * 0 * 40.728e-15 * sky130_fd_pr__cap_vpp_08p6x07p8_l1m1m2_noshield__cor c0_sub=3.241e-15 * cli2s_vpp c1_sub=1.307e-15 * cli2s_vpp rat_m2=0.3761 rat_m1=0.3856 rat_li=0.2383 cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a cap_li=rat_li * ctot_a lm2=3.685 wm2=0.140 nfm2=44.0 nvia_c0=84.0 nvia_c1=42.0 lm1=3.290 wm1=0.140 nfm1=52.0 ncon_c0=84.0 ncon_c1=16.0 ll1=3.655 wl1=0.170 nfl1=38.0
rm21 (c0 a1) resistor r=rm2 * lm2 / wm2 * (1 / 3) * (1 / nfm2)
ccmvpp8p6x7p9 (a1 c1) capacitor c=cap_m2
rvia1 (c0 d0) resistor r=rcvia / nvia_c0
rvia2 (c1 d1) resistor r=rcvia / nvia_c1
rm11 (d0 b1) resistor r=rm1 * lm1 / wm1 * (1 / 3) * (1 / nfm1)
cm1 (b1 d1) capacitor c=cap_m1
rcon1 (d0 e0) resistor r=rcl1 / ncon_c0
rcon2 (d1 e1) resistor r=rcl1 / ncon_c1
rli1 (e0 f1) resistor r=rl1 * ll1 / wl1 * (1 / 3) * (1 / nfl1)
cli (f1 e1) capacitor c=cap_li
cli1_b (e0 b) capacitor c=c0_sub
cli2_b (e1 b) capacitor c=c1_sub
ends // sky130_fd_pr__cap_vpp_08p6x07p8_l1m1m2_noshield
