parameters sky130_fd_pr__cap_vpp_04p4x04p6_l1m1m2_shieldpo_floatm3__slope=0.0
subckt sky130_fd_pr__cap_vpp_04p4x04p6_l1m1m2_shieldpo_floatm3 (c0 c1 b m3)
parameters mult=1.0 ctot_a=9.766e-15 * sky130_fd_pr__cap_vpp_04p4x04p6_l1m1m2_shieldpo_floatm3__cor + 1.15082 / sqrt(mult / 0.31785) * mc_mm_switch * 0 * 9.766e-15 * sky130_fd_pr__cap_vpp_04p4x04p6_l1m1m2_shieldpo_floatm3__cor cm3_c0=1.386e-15 * cm3m2_vpp cm3_c1=0.745e-15 * cm3m2_vpp cpl2s=2.838e-15 * cpl2s_vpp rat_m2=0.300 rat_m1=0.385 rat_li=0.280 rat_li2p=0.035 cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a cap_li=rat_li * ctot_a cap_li2p=rat_li2p * ctot_a lm2=1.585 wm2=0.140 nfm2=24.0 nvia_c0=40.0 nvia_c1=18.0 lm1=1.665 wm1=0.140 nfm1=20.0 ncon_c0=42.0 ncon_c1=8.0 ll1=1.555 wl1=0.170 nfl1=20.0 nlicon=44.0
ccmvpp4p4x4p6_m3shield (m3 c0) capacitor c=cm3_c0
cm3_1 (m3 c1) capacitor c=cm3_c1
rm21 (c0 a1) resistor r=rm2 * lm2 / wm2 * (1 / 3) * (1 / nfm2)
cm2 (a1 c1) capacitor c=cap_m2
rvia1 (c0 d0) resistor r=rcvia / nvia_c0
rvia2 (c1 d1) resistor r=rcvia / nvia_c1
rm11 (d0 b1) resistor r=rm1 * lm1 / wm1 * (1 / 3) * (1 / nfm1)
cm1 (b1 d1) capacitor c=cap_m1
rcon1 (d0 e0) resistor r=rcl1 / ncon_c0
rcon2 (d1 e1) resistor r=rcl1 / ncon_c1
rli1 (e0 f1) resistor r=rl1 * ll1 / wl1 * (1 / 3) * (1 / nfl1)
cli (f1 e1) capacitor c=cap_li
rlicon (e0 g0) resistor r=rcp1 / nlicon
rpoly (g0 h0) resistor r=rp1
cpl2b (h0 b) capacitor c=cpl2s
cl12p (e1 h0) capacitor c=cap_li2p
ends // sky130_fd_pr__cap_vpp_04p4x04p6_l1m1m2_shieldpo_floatm3
