subckt sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2m3_shieldpom4 (c0 c1 b m4)
parameters mult=1.0 ctot_a=33.819e-15 * sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2_noshield__cor + 0.0283 / sqrt(6.8 * 6.1 * mult * 2) * 33.819e-15 * sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2_noshield__cor * mc_mm_switch * 0 cm4_c0=2.75e-15 * c0m4m3_vpp cm4_c1=1.53e-15 * c1m4m3_vpp cpl2s=(6.51e-15 - 1.05e-15) * cpl2s_vpp rat_m3=0.12 rat_m2=0.37 rat_m1=0.37 rat_li=0.12 rat_li2p=0.02 cap_m3=rat_m3 * ctot_a cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a cap_li=rat_li * ctot_a cap_li2p=rat_li2p * ctot_a ll1=2.73 lm1=2.42 lm2=2.77 lm3=2.25 wl1=0.170 wm1=0.140 wm2=0.140 wm3=0.300 nfl1=34.0 nfm1=42.0 nfm2=38.0 nfm3=22.0 nvia2_c0=48.0 nvia2_c1=23.0 nvia_c0=60.0 nvia_c1=32.0 ncon_c0=64.0 ncon_c1=13.0 nlicon=68.0
ccmvpp6p8x6p1_polym4shield (m4 b0) capacitor c=cm4_c0
cm4_1 (m4 b1) capacitor c=cm4_c1
rsm3 (b0 b2) resistor r=rm3 * lm3 / wm3 * (1 / 3) * (1 / nfm3)
cm3 (b2 b1) capacitor c=cap_m3
rvia2_0 (b0 c0) resistor r=rcvia2 / nvia2_c0
rvia2_1 (b1 c1) resistor r=rcvia2 / nvia2_c1
rsm2 (c0 c2) resistor r=rm2 * lm2 / wm2 * (1 / 3) * (1 / nfm2)
cm2 (c2 c1) capacitor c=cap_m2
rvia_0 (c0 d0) resistor r=rcvia / nvia_c0
rvia_1 (c1 d1) resistor r=rcvia / nvia_c1
rsm1 (d0 d2) resistor r=rm1 * lm1 / wm1 * (1 / 3) * (1 / nfm1)
cm1 (d2 d1) capacitor c=cap_m1
rcon1 (d0 e0) resistor r=rcl1 / ncon_c0
rcon2 (d1 e1) resistor r=rcl1 / ncon_c1
rli1 (e0 e2) resistor r=rl1 * ll1 / wl1 * (1 / 3) * (1 / nfl1)
cli (e2 e1) capacitor c=cap_li
rlicon (e0 f0) resistor r=rcp1 / nlicon
rpoly (f0 f2) resistor r=rp1
cl12p (e1 f2) capacitor c=cap_li2p
cpl2b (f0 b) capacitor c=cpl2s
ends // sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2m3_shieldpom4
